US05827855
71-(1) (4R,6R)-6-{2-[(1S,2S,8S,8aR)-1,2,6,7,8,8a-Hexahydro-8-(2-ethyl-2-methylbutyryloxy)-2-methyl-1-naphthyl]ethyl}tetrahydro-4-t-butyldimethylsilyloxy-2H-pyran-2-one
A procedure similar to that described in Example 4, above, was followed, but using 1.0 g (2.4 mmol) of (4R,6R)-6-{2-[(1S,2S,8S,8aR)-1,2,6,7,8,8a-hexahydro-8-hydroxy-2-methyl-1-naphthyl]ethyl}tetrahydro-4-t-butyldimethylsilyloxy-2H-pyran-2-one [prepared as described in Japanese Patent Kokai Application No. Sho 59-175450] and 1.4 g (9.4 mmol) of 2-ethyl-2-methylbutyryl chloride, to provide 951 mg of the title compound.

reactant | (4R,6R)-6-{2-[(1S,2S,8S,8aR)-1,2,6,7,8,8a-hexahydro-8-hydroxy-2-methyl-1-naphthyl]ethyl}tetrahydro-4-t-butyldimethylsilyloxy-2H-pyran-2-one | 2.4 mmol, 1.0 g | O[C@H]1CCC=C2C=C[C@@H]([C@@H]([C@@H]12)CC[C@@H]1C[C@H](CC(O1)=O)O[Si](C)(C)C(C)(C)C)C | C24H40O4Si
reactant | 2-ethyl-2-methylbutyryl chloride | 9.4 mmol, 1.4 g | C(C)C(C(=O)Cl)(CC)C | C7H13ClO
product | (4R,6R)-6-{2-[(1S,2S,8S,8aR)-1,2,6,7,8,8a-Hexahydro-8-(2-ethyl-2-methylbutyryloxy)-2-methyl-1-naphthyl]ethyl}tetrahydro-4-t-butyldimethylsilyloxy-2H-pyran-2-one | 951 mg | C(C)C(C(=O)O[C@H]1CCC=C2C=C[C@@H]([C@@H]([C@@H]12)CC[C@@H]1C[C@H](CC(O1)=O)O[Si](C)(C)C(C)(C)C)C)(CC)C | C31H52O5Si
